Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
black stool
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo M with N/V/D since three days and low grade 
temp to 100.0, no abdominal pain, but some cramping. For symptom 
relieve he took Kaopectate and to rehydrate him self he drank 
GatorAde. Per wife he than turned very dark to almost black. She 
called PCP,  who recommended ED eval. Pt denies any hx of GI 
bleed, had no EGD, but colonoscopy in ___  showing  a single 
sessile polyp of benign appearance colon otherwise nl colon. He 
is not on anticoagulation with exception of baby aspirin for 
ppx. Rarely GERD like symptoms, never had hemoptysis.
He endorses some lightheaded but no dizzyness. No travel hx or 
sick contact. Otherwise healthy and negative ROS.
.  
In the ED, initial vs were: T 99.6 81 BP 127/71 RR 18 O295% P BP 
R O2 sat. Patient was given 2L NS and admitted for presumed GI 
bleed and ARF - guaiac negative in ED. He was guaic negative, CT 
scan positive for diverticulosis only.

 
Past Medical History:
1. Coronary artery disease status post RCA and left circumflex
stents in 1990s.
2. Hypertension.
3. Hyperlipidemia.
4. Seasonal allergies
5. GERD
 
Social History:
___
Family History:
No family history of premature coronary artery disease, 
unexplained heart failure, or sudden death. 
 
Physical Exam:
Vitals: T: 98.6 BP: 118/68 P: 77 R: 18 O2:98%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, minimal LLQ tenderness no guarding or rebound, 
not distended, bowel sounds present, 
Ext: Warm, well perfused, 2+ pulses,
 
Pertinent Results:
___ 05:35AM BLOOD WBC-5.6 RBC-4.11* Hgb-12.9*# Hct-36.2*# 
MCV-88 MCH-31.4 MCHC-35.7* RDW-13.0 Plt ___
___ 01:10PM BLOOD WBC-9.6 RBC-5.22 Hgb-16.4 Hct-46.3 MCV-89 
MCH-31.4 MCHC-35.4* RDW-13.2 Plt ___
___ 05:35AM BLOOD Neuts-53.4 ___ Monos-10.4 Eos-1.5 
Baso-0.5
___ 01:10PM BLOOD Neuts-70.7* ___ Monos-9.4 Eos-0.4 
Baso-0.5
___ 01:10PM BLOOD ___ PTT-22.8 ___
___ 05:35AM BLOOD Glucose-96 UreaN-19 Creat-1.0 Na-142 
K-3.7 Cl-110* HCO3-23 AnGap-13
___ 01:10PM BLOOD Glucose-122* UreaN-41* Creat-1.6* Na-139 
K-3.6 Cl-100 HCO3-24 AnGap-19
___ 05:35AM BLOOD ALT-48* AST-48* AlkPhos-40 TotBili-0.3
___ 01:10PM BLOOD ALT-67* AST-63* LD(LDH)-180 AlkPhos-55 
TotBili-0.4
___ 05:35AM BLOOD Lipase-64*
___:10PM BLOOD Lipase-41
___ 05:35AM BLOOD Calcium-8.0* Phos-2.4* Mg-2.0
.
 
___ CT abd/pelvis:
No acute intra-abdominal process.   
Diverticulosis without evidence of diverticulitis. 

 
Brief Hospital Course:
This is a  ___ yo male with remote cardiac hx who presents with 
n/v/d and black stool after he took Kaopectate, which contains 
bismuth, and known to turn stool black.
.
#) Black stool: this was the reason why pt was refered to ED and 
admitted to hospital. He is guaiac negative and rather 
hemoconcentrated from what is most likely non bloody diarrhea 
due to simple viral gastro enteritis. Kaopectate discontinued. 
.  
#) acute renal failure: likely pre-renal azotemia in the setting 
of significant volume loss and ACE-I, improved to baseline with 
2 L IVF. Held ACE-I and atenolol but resumed upon discharge.
.  
#) n/v/d/: no hx or physical to indicate bacterial/invasive 
infection. most likely viral. Given supportive care with anti 
emetic, 2IVF, and clear liquid diet was advanced to regular as 
tolerated. c/o gas and given simethicone.
.
#)CAD: stable, cont ASA, bp meds held overnight and resumed upon 
discharge with resolution of ARF.
.
# LFT elevation: most likely due to acute viral illness, also 
predisposed to LFT elevation due to statin/fibrate combo. Had 
elevation in the past. LFTs trened down with hydration, should 
be followed as outpatient.
.  
#)General Care: FEN: 2IVF overnight, replete electrolytes, clear 
diet advance as tolerated, Prophylaxis: pneumo boot, H2 blocker, 
Access: peripherals, Code: full, Communication: Patient, 
Discharged with resolution of ARF after hydration
 
Medications on Admission:
1. Atenolol 50 mg once a day    
2. Fenofibrate Micronized 67 mg once a day with a meal 
3. Fexofenadine 180 mg Tablet once a day  
4. Fluticasone 50 mcg/Actuation Spray, 
5. Lisinopril 5 mg Tablet 
6. Nitroglycerin 0.3 mg Tablet, Sublingual 
7. Simvastatin 80 mg once a day  
8. Zolpidem 10 mg Tablet at bedtime as needed for insomnia 
9. Aspirin 81 mg Tablet once a day  
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Fenofibrate Micronized 67 mg Capsule Sig: One (1) Capsule PO 
daily with meal ().  
3. Fexofenadine 60 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
5. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
7. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
9. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. Nitroglycerin 0.3 mg Tablet, Sublingual Sublingual

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Gastroenteritis
Acute Renal Failure

 
Discharge Condition:
vitals signs stable, ambulating without assistance

 
Discharge Instructions:
You were admitted with diarrhea thought to be caused by a viral 
gastroenteritis. You were also found to be dehydrated with a 
mild amount of renal failure that resolved with IV fluids.  
Also, your liver function tests were slightly above your 
baseline which may be due to using your cholesterol medications 
while dehydrated, please make sure to have these repeated by 
your primary care doctor.
.
Please call Dr. ___ on ___ at ___ to schedule a 
follow up appointment in the next ___ weeks.
.
No changes were made to your medication regimen.
.
If you develop any of the following, chest pain, shortness of 
breath, cough, fever, chills, nausea, vomiting, worsening 
diarrhea, abdominal pain, or dizziness please call your primary 
care doctor or go to your local emergency room. 
 
Followup Instructions:
___